US08609644B2
6β-Methoxymethylandrostane-3,17-dione (II-ai)
The title compound II-aj was prepared in 90% yield from 3,3:17,17-bis(ethylendioxy)-6β-methoxymethylandrostane by the procedure described above for the preparation of 6α-cyanoandrostane-3,17-dione (II-ac, Prepn. 3). The combined organic extracts were washed with H2O, dried over Na2SO4 and evaporated to dryness. The residue was purified by flash chromatography (SiO2, n-hexane/CH2Cl2/acetone 70/10/20). 1H-NMR (300 MHz, acetone-d6, ppm from TMS): δ 3.45 (m, 2H), 3.27 (s, 3H), 2.80-0.80 (m, 21H), 1.10 (s, 3H), 0.89 (s, 3H).

reactant | 17,17-bis(ethylendioxy)-6β-methoxymethylandrostane | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1C[C@H](C3CCCC[C@]3(C)[C@H]1CC4)COC | C25H40O5
reactant | 6α-cyanoandrostane-3,17-dione | C(#N)[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C20H27NO2
product | 6β-Methoxymethylandrostane-3,17-dione | 90% yield | COC[C@@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C21H32O3
